US06472386B1
Synthesis of 5-(3,4,5-Trimethoxyphenyl)thiophene-2-carboaldehyde
3,4,5-Trimethoxyphenylboronic acid (848 mg) and 5-chlorothiophene-2-carboaldehyde (764 mg) were suspended in a mixed solvent of toluene (20 mL) and THF (15 mL), and to the suspension 2 M sodium carbonate (8 mL) was added. Tetrakis(triphenylphosphine)palladium(0) (231 mg) was added to the mixture under an argon atmosphere, and the mixture was stirred at 90° C. for 5 hours as it is. After allowing the reaction mixture to cool, ethyl acetate was added to the reaction mixture to separate an organic layer. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 848 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | 5-chlorothiophene-2-carboaldehyde | 764 mg | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 8 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 231 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-(3,4,5-Trimethoxyphenyl)thiophene-2-carboaldehyde | COC=1C=C(C=C(C1OC)OC)C1=CC=C(S1)C=O | C14H14O4S
